US07632850B2
11.3. 2-(methylamino)-2-oxoethyl 2-(3′-cyano-1,1′-biphenyl-4-yl)ethylcarbamate
2.0 g (6.53 mmol) of 4′-[2-(2,4-dioxo-1,3-oxazolidin-3-yl)ethyl]-3-biphenylcarbonitrile, prepared in step 11.2., are dissolved in a mixture of 13 ml of methanol and 9.8 ml of a 2N solution of methylamine (19.6 mmol) in tetrahydrofuran. The solution is left to react overnight and then evaporated to dryness and the residue is purified by chromatography on silica gel, eluting with a 96/4 then 95/5 mixture of dichloromethane and methanol. The product is recrystallized from a mixture of ethyl acetate and diisopropyl ether to give 1.07 g of product in the form of a white powder.

reactant | 4′-[2-(2,4-dioxo-1,3-oxazolidin-3-yl)ethyl]-3-biphenylcarbonitrile | 6.53 mmol, 2.0 g | O=C1OCC(N1CCC1=CC=C(C=C1)C1=CC(=CC=C1)C#N)=O | C18H14N2O3
reactant | methylamine | 19.6 mmol | CN | CH5N
solvent | methanol | 13 ml | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(methylamino)-2-oxoethyl 2-(3′-cyano-1,1′-biphenyl-4-yl)ethylcarbamate | 1.07 g | C(#N)C=1C=C(C=CC1)C1=CC=C(C=C1)CCNC(OCC(=O)NC)=O | C19H19N3O3
